US04124704
A solution of 5-bromomethyl-2-nitro-3-phenylbenzofuran (5 g., 0.015 mole) in 95 ml. of acetone is treated with 20 ml. of ethanol, and the mixture is heated to its reflux temperature. To this mixture is added 0.015 mole of sodium cyanide dissolved in 9 ml. of water, and refluxing is continued for about two hours. The mixture is evaporated under vacuum, then dichloromethane and water are added to the residue. The organic layer is separated, washed with water and dried. The organic layer is then evaporated under vacuum. The residue is purified by eluting twice with benzene through a silica gel column, followed by refluxing in 30 ml. of diethyl ether. The yellow precipitate is separated by filtration and recrystallized twice from benzene to provide 5-cyanomethyl-2-nitro-3-phenylbenzofuran, m.p. 166°-168° C.

reactant | 5-bromomethyl-2-nitro-3-phenylbenzofuran | 0.015 mole, 5 g | BrCC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C15H10BrNO3
reactant | acetone | CC(=O)C | C3H6O
reactant | ethanol | C(C)O | C2H6O
reactant | sodium cyanide | 0.015 mole | [C-]#N.[Na+]
solvent | water | O | H2O
product | 5-cyanomethyl-2-nitro-3-phenylbenzofuran | C(#N)CC=1C=CC2=C(C(=C(O2)[N+](=O)[O-])C2=CC=CC=C2)C1 | C16H10N2O3
